US05185349
Preparation of N-[2,6-bis(1-methylethyl)phenyl]-5-(4-fluorophenyl)tetrahydro-2-oxo-3-furancarboxamide
To a cooled (-78° C.) solution of diisopropylamine (1.40 g, 0.013 mol) in 90 mL ether, n-BuLi (0.013 mol) was added dropwise followed by 45 mL ether. After stirring for 5 minutes at -78° C. under a nitrogen atmosphere, a solution of γ-(4-fluorophenyl)-γ-butyrolactone (2.50 g, 0.013 mol) in 23 mL ether was added dropwise and the resulting solution was stirred for 20 minutes at -78° C. A solution of 2,6-diisopropylphenyl isocyanate in 23 mL ether was then added dropwise and the reaction mixture was allowed to gradually warm to room temperature and stir for 16 hours under a nitrogen atmosphere (J. F. Wolfe, et al, Synthetic Communications 17, 13 (1987)). The reaction mixture was then quenched with a saturated solution of ammonium chloride and extracted with methylene chloride. The layers were separated and the organic layer was washed two times with water, dried (Na2SO4) and concentrated in vacuo (30° C.) to afford a white residue. The residue was washed with hexane, filtered, and oven-dried (30° C.) to yield a white solid, 3.77 g (0.009 mol, 71.2%) of the title compound, mp 203°-205° C.

reactant | diisopropylamine | 0.013 mol, 1.40 g | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 0.013 mol | [Li]CCCC
reactant | γ-(4-fluorophenyl)-γ-butyrolactone | 0.013 mol, 2.50 g | FC1=CC=C(C=C1)C1CCC(=O)O1 | C10H9FO2
reactant | 2,6-diisopropylphenyl isocyanate | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
solvent | ether | 90 mL | CCOCC | C4H10O
solvent | ether | 23 mL | CCOCC | C4H10O
solvent | ether | 23 mL | CCOCC | C4H10O
solvent | ether | 45 mL | CCOCC | C4H10O
product | N-[2,6-bis(1-methylethyl)phenyl]-5-(4-fluorophenyl)tetrahydro-2-oxo-3-furancarboxamide | 0.009 mol, 3.77 g, 71.2% | CC(C)C1=C(C(=CC=C1)C(C)C)NC(=O)C1C(OC(C1)C1=CC=C(C=C1)F)=O | C23H26FNO3
